US08809267B2
4-Fluoro-1,3-dihydro-isoindole-2-carboxylic acid 1-(2-cyclopentyloxycarbonylamino-3,3-dimethyl-butyryl)-5-(1-methoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-pyrrolidin-3-yl ester (550 mg, 0.86 mmol) was dissolved in THF:MeOH:H2O (1:1:1 8.7 mL) and treated with lithium hydroxide (180 mg, 4.28 mmol). The reaction was judged complete by complete consumption of starting material after approximately 2 h, at which time the reaction was neutralized with 1N aqueous HCl. The organic phase was extracted with EtOAc then washed with saturated aqueous NaCl, and dried over sodium sulfate. After removal of solvent, 4-fluoro-1,3-dihydro-isoindole-2-carboxylic acid 5-(1-carboxy-2-vinyl-cyclopropylcarbamoyl)-1-(2-cyclopentyloxycarbonylamino-3,3-dimethyl-butyryl)-pyrrolidin-3-yl ester was obtained (540 mg, 0.86 mmol), which was used in the next reaction without further purification.

reactant | 4-Fluoro-1,3-dihydro-isoindole-2-carboxylic acid 1-(2-cyclopentyloxycarbonylamino-3,3-dimethyl-butyryl)-5-(1-methoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-pyrrolidin-3-yl ester | 0.86 mmol, 550 mg | C1(CCCC1)OC(=O)NC(C(=O)N1CC(CC1C(NC1(C(C1)C=C)C(=O)OC)=O)OC(=O)N1CC2=CC=CC(=C2C1)F)C(C)(C)C | C33H43FN4O8
reactant | lithium hydroxide | 4.28 mmol, 180 mg | [OH-].[Li+]
solvent | THF MeOH H2O | 8.7 mL | C1CCOC1.CO.O
product | 4-fluoro-1,3-dihydro-isoindole-2-carboxylic acid 5-(1-carboxy-2-vinyl-cyclopropylcarbamoyl)-1-(2-cyclopentyloxycarbonylamino-3,3-dimethyl-butyryl)-pyrrolidin-3-yl ester | C(=O)(O)C1(C(C1)C=C)NC(=O)C1CC(CN1C(C(C(C)(C)C)NC(=O)OC1CCCC1)=O)OC(=O)N1CC2=CC=CC(=C2C1)F | C32H41FN4O8
